US09422271B2
A mixture of 5-bromothiophene-2-sulfonyl chloride (1.5 g, 5.74 mmol, 1.0 equiv.), t-BuNH2 (1.26 g, 17.22 mmol, 3.0 equiv.) in 1,4-dioxane (50 ml) was stirred at 20° C. for 4 h under nitrogen atmosphere. The reaction mixture was concentrated to give a residue, which was purified by silica gel chromatography (PE/EA 100:1 to 10:1 as eluent) to afford 5-bromo-N-tert-butylthiophene-2-sulfonamide (1.614 g, 94.3%) as solid.

reactant | 5-bromothiophene-2-sulfonyl chloride | 5.74 mmol, 1.5 g, 1.0 equiv. | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | t-BuNH2 | 17.22 mmol, 1.26 g, 3.0 equiv. | C(C)(C)(C)N | C4H11N
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 5-bromo-N-tert-butylthiophene-2-sulfonamide | 1.614 g, 94.3% | BrC1=CC=C(S1)S(=O)(=O)NC(C)(C)C | C8H12BrNO2S2
